US04479962
1-(Benztriazol-4-yloxy)-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propan-2-ol dihydrochloride
1.38 g. Sodium nitrite dissolved in 2.2 ml. water are added to a solution, cooled to 0° C., of 9.1 g. 2,3-diamino-1-{2-hydroxy-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propoxy}-benzene trihydrochloride in 12 ml. water and 4.6 ml. glacial acetic acid. After stirring for 2 hours at ambient temperature, the reaction mixture is evaporated to dryness, the residue is taken up in chloroform and the solution is washed with 1M hydrochloric acid and water, dried and evaporated. The residue is recrystallized from ethanol-ethyl acetate, with the addition of active charcoal, to give 2.2 g. (26% of theory) of the desired compound; m.p. 230°-232° C.

reactant | Sodium nitrite | N(=O)[O-].[Na+]
reactant | water | O | H2O
reactant | 2,3-diamino-1-{2-hydroxy-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propoxy}-benzene trihydrochloride | Cl.Cl.Cl.NC1=C(C=CC=C1N)OCC(CNCCNC1=C(C=CC=C1C)C)O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(Benztriazol-4-yloxy)-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propan-2-ol dihydrochloride | Cl.Cl.N1N=NC2=C1C=CC=C2OCC(CNCCNC2=C(C=CC=C2C)C)O | InChI=1S/C19H25N5O2.2ClH/c1-13-5-3-6-14(2)18(13)21-10-9-20-11-15(25)12-26-17-8-4-7-16-19(17)23-24-22-16;;/h3-8,15,20-21,25H,9-12H2,1-2H3,(H,22,23,24);2*1H
